US05143643
5.0 g of 3-pentyloxybutanol, 3.98 g of p-toluenesulfonyl chloride, 1.65 g of pyridine, and 8 ml of benzene were charged in a 30 ml-reaction vessel and, under N2 stream, stirred for 23 hours at room temperature. Then, into the reaction mixture, 6.3 ml of hot conc. NaOH aqueous solution was added and stirred for 5 min. The mixture was poured in 280 ml of cold 10%-hydrochloric acid solution and extracted with hexane. The hexane layer was washed successively with cold 5%-hydrochloric acid solution, saturated NaCO3 aqueous solution and water and dried with anhydrous MgSO4, followed by distilling-off of the solvent to 6.0 g of a crude product, which was purified by alumina column chromatography (hexane) to obtain 2.3 g of 3-pentyloxybutyl p-toluenesulfonate.

reactant | 3-pentyloxybutanol | 5.0 g | C(CCCC)OC(CCO)C | C9H20O2
reactant | p-toluenesulfonyl chloride | 3.98 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaOH | 6.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 1.65 g | N1=CC=CC=C1 | C5H5N
product | 3-pentyloxybutyl p-toluenesulfonate | 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC(C)OCCCCC)C | C16H26O4S
